US07071201B2
(27-1) 2-(2-Methoxypyridin-5-yl)ethanol
5-Bromo-2-methoxypyridine (2.628 g) synthesized as reported in Tetrahedron, 1373 (1985). was dissolved in diethyl ether (40 ml) and then treated as in the above Production Example 16-1 to give the title compound (1.342 g) as a pale yellow oil (yield: 62.7%).

reactant | 5-Bromo-2-methoxypyridine | 2.628 g | BrC=1C=CC(=NC1)OC | C6H6BrNO
reactant | diethyl ether | 40 ml | C(C)OCC | C4H10O
product | 2-(2-Methoxypyridin-5-yl)ethanol | 1.342 g, yield: 62.7% | COC1=NC=C(C=C1)CCO | C8H11NO2
